US09381196B2
To a solution of methyl 8-(4-nitrobiphenyl-3-ylamino)-8-oxooctanoate (270 mg, 0.70 mmol) and ammonium formate (177 mg, 2.8 mmol) in methanol was added catalytic amount of palladium on carbon (5%). The mixture was heated to reflux under a nitrogen atmosphere overnight and filtered. The filtrate was concentrated and purified by biotage column chromatography to give methyl 8-(4-aminobiphenyl-3-ylamino)-8-oxooctanoate (211 mg)

reactant | methyl 8-(4-nitrobiphenyl-3-ylamino)-8-oxooctanoate | 0.70 mmol, 270 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC=CC=C1)NC(CCCCCCC(=O)OC)=O | C21H24N2O5
reactant | ammonium formate | 2.8 mmol, 177 mg | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | methyl 8-(4-aminobiphenyl-3-ylamino)-8-oxooctanoate | 211 mg | NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CCCCCCC(=O)OC)=O | C21H26N2O3
